US08703953B2
To a suspension of NaH (389 mg, 9.72 mmol) in THF (9 mL) cooled to 0° C., was added (4-(4-chloro-2-fluorophenyl)pyridin-3-yl)(cyclopropyl)methanol (900 mg, 3.24 mmol) in THF (9 mL) dropwise over a period of 10 min. The reaction mixture was stirred at 0° C. for 15 min and then warmed to room temperature and stirred for 15 h. The reaction mixture was quenched by addition of cold water (10 mL) and extracted with ethyl acetate (3×25 mL). The combined organic extracts were washed with brine (1×25 mL), dried over sodium sulfate and concentrated under reduced pressure. The crude residue was purified via silica gel column chromatography (ethyl acetate/hexanes) to give 8-chloro-5-cyclopropyl-5H-chromeno[3,4-c]pyridine (630 mg, 2.45 mmol, 75% yield). LCMS (ESI) m/e 258.0 [(M+H)+, calcd for C15H13ClNO 258.1]; LC/MS retention time (Method C): tR=2.08 min.

reactant | NaH | 9.72 mmol, 389 mg | [H-].[Na+]
reactant | (4-(4-chloro-2-fluorophenyl)pyridin-3-yl)(cyclopropyl)methanol | 3.24 mmol, 900 mg | ClC1=CC(=C(C=C1)C1=C(C=NC=C1)C(O)C1CC1)F | C15H13ClFNO
solvent | THF | 9 mL | C1CCOC1 | C4H8O
solvent | THF | 9 mL | C1CCOC1 | C4H8O
product | 8-chloro-5-cyclopropyl-5H-chromeno[3,4-c]pyridine | 2.45 mmol, 630 mg, 75% yield | ClC=1C=CC2=C(C1)OC(C1=CN=CC=C12)C1CC1 | C15H12ClNO
